US08686024B2
(2) Synthesis of 1-methylindolin-5-yl 4-isopropylphenylcarbamate
To a solution of 1-methylindolin-5-ol (18 mg, 0.12 mmol) in 0.6 mL of dry diethyl ether was added sodium hydride (55%, 19 mg, 0.43 mmol) at room temperature. After the reaction mixture was stirred at the same temperature for 2 min, 4-isopropylphenylisocyanate (29 μL, 0.18 mmol) was added with additional stirring for 5 min to 10 min. After the reaction mixture was quenched with water (1 mL), the solution was extracted with diethyl ether (10 mL). The extract was washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=90/10 to 60/40) to obtain the title compound (5.4 mg, 14%).

reactant | 1-methylindolin-5-ol | 0.12 mmol, 18 mg | CN1CCC2=CC(=CC=C12)O | C9H11NO
reactant | sodium hydride | 0.43 mmol, 19 mg | [H-].[Na+]
reactant | 4-isopropylphenylisocyanate | 0.18 mmol, 29 μL | C(C)(C)C1=CC=C(C=C1)N=C=O | C10H11NO
solvent | diethyl ether | 0.6 mL | C(C)OCC | C4H10O
product | 1-methylindolin-5-yl 4-isopropylphenylcarbamate | 5.4 mg, 14% | C(C)(C)C1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)C)=O | C19H22N2O2
